US05292901
[{1-(1,3-benzodioxol-5-yl)butyl}thio]acetic acid
A mixture of 103 g of 1-(1,3-benzodioxol-5-yl)-1-butanol, 73.3 g of mercaptoacetic acid, 0.1 g of D-10-camphorsulfonic acid and 500 ml of benzene was heated under reflux for 2 h. 2,000 ml of ether was added to the reaction mixture. After washing with water, the product was redissolved in 750 ml of 1NNaOH and then in 100 ml thereof. The solution thus obtained was washed with ether and then with chloroform, acidified with concentrated hydrochloric acid and extracted with 800 ml and then 400 ml of ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure to obtain 132 g of the crude product. It was purified according to silica gel column chromatography (ethyl acetate/hexane/formic acid=100:900:1) to obtain 127 g of the intended compound in the form of a colorless oil. This oil was crystallized from n-hexane to obtain 115 g of the titled compound as a white crystalline powder. It was found to have a melting point of 59° to 61° C.

reactant | 1-(1,3-benzodioxol-5-yl)-1-butanol | 103 g | O1COC2=C1C=CC(=C2)C(CCC)O | C11H14O3
reactant | mercaptoacetic acid | 73.3 g | SCC(=O)O | C2H4O2S
reactant | benzene | 500 ml | C1=CC=CC=C1 | C6H6
catalyst | D-10-camphorsulfonic acid | 0.1 g | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
solvent | ether | 2,000 ml | CCOCC | C4H10O
product | [{1-(1,3-benzodioxol-5-yl)butyl}thio]acetic acid | 127 g | O1COC2=C1C=CC(=C2)C(CCC)SCC(=O)O | C13H16O4S
